US07176242B2
3-[5-(2-Carboxyethyl)-1,3-oxazol-2-yl]benzoic acid
To methyl 3-[5-(3-methoxy-3-oxopropyl)-1,3-oxazol-2-yl]benzoate (400 mg 1.3 mmol) in 2:1:1 tetrahydrofuran/methanol/water (8 mL) is added lithium hydroxide monohydrate (112 mg, 2.7 mmol), and the reaction is stirred 2 h at room temperature. More lithium hydroxide monohydrate (225 mg, 5.4 mmol) is added and the reaction is stirred 16 h at room temperature. The reaction is treated with excess concentrated hydrochloric acid resulting in a precipitate. The precipitate is filtered to give the title compound. ESI MS m/z 260.1 [M−H]−.

reactant | methyl 3-[5-(3-methoxy-3-oxopropyl)-1,3-oxazol-2-yl]benzoate | 1.3 mmol, 400 mg | COC(CCC1=CN=C(O1)C=1C=C(C(=O)OC)C=CC1)=O | C15H15NO5
reactant | lithium hydroxide monohydrate | 2.7 mmol, 112 mg | O.[OH-].[Li+]
reactant | lithium hydroxide monohydrate | 5.4 mmol, 225 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran methanol water | 8 mL | O1CCCC1.CO.O
product | 3-[5-(2-Carboxyethyl)-1,3-oxazol-2-yl]benzoic acid | C(=O)(O)CCC1=CN=C(O1)C=1C=C(C(=O)O)C=CC1 | C13H11NO5
